US07312218B2
To a solution of 234.3 mg (1 mmol) of 4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenylamine in 5 mL of anhydrous CH2Cl2 and under N2 atmosphere were added 179 mg (1.5 mmol) of 3-chlorophenylisocyanate. The mixture was stirred for 3 days at room temperature. The volatiles were concentrated to yield quantitatively 1-(3-chloro-propyl)-3-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-urea as a viscous oil. This compound can be was used without further purification. 1H NMR (400 MHz, CDCl3) δ 8.25 (t, J=8.6 Hz, 1H), 7.44 (dd, J=9.7 Hz, and J=2.1 Hz, 1H), 7.25 (m, 1H), 7.13 (m, 1H), 7.065 (d, J=6.5 Hz, 1H), 5.65 (t, 1H), 3.65 (t, J=6.5 Hz, 2H), 3.47 (m, 2H), 3.38 (s, 2H), 2.24 (s, 6H), 2.05 (m, 2H), ppm. LC-MS (ESI) 354.0 [M+H]+, tR=2.51 min (Shimadzu Phenomenex S5 ODS 4.6×50 mm Luna flow rate 2.5 mL/mn; detection at 220 nM; Gradient elution 0% to 100% B over 8 min; (A=10% MeOH, 90% H2O, 0.2% H3PO4& B=90% MeOH, 10% H2O, 0.2% H3PO4). HRMS (ESI) m/z calcd for C16H22ClFN5O[M+H]+ 354.1497. found 354.1491.

reactant | 4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenylamine | 1 mmol, 234.3 mg | CN(C)CC=1N(C=CN1)C1=CC(=C(C=C1)N)F | C12H15FN4
reactant | 3-chlorophenylisocyanate | 1.5 mmol, 179 mg | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-chloro-propyl)-3-[4-(2-dimethylaminomethyl-imidazol-1-yl)-2-fluoro-phenyl]-urea | ClCCCNC(=O)NC1=C(C=C(C=C1)N1C(=NC=C1)CN(C)C)F | C16H21ClFN5O
